US08664220B2
Step 1: ((S)-1-Bromo-ethyl)-benzene
Bromine (3.2 g, 20.0 mmol) was added to a suspension of triphenylphosphine (5.2 g, 19.8 mmol) stirring in ACN at −15° C. The reaction was warmed to room temperature and stirred for 50 minutes then cooled to −35° C. and (R)-(+)-1-phenylethanol (1.6 g, 13.1 mmol) was added. The reaction was allowed to warm to −10° C. over 70 minutes and was then quenched with H2O and submitted to standard aqueous workup to afford the title compound which was used without further purification.

reactant | Bromine | 20.0 mmol, 3.2 g | BrBr | Br2
reactant | triphenylphosphine | 19.8 mmol, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-(+)-1-phenylethanol | 13.1 mmol, 1.6 g | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
solvent | ACN | C(C)#N | C2H3N
product | ((S)-1-Bromo-ethyl)-benzene | Br[C@@H](C)C1=CC=CC=C1 | C8H9Br
